US07625932B2
Preparation of 1-bromo-2-ethylsulfanyl-benzene
Add potassium carbonate (2.20 g, 15.92 mmol) to 2-bromobenzenethiol (2.00 g, 10.58 mmol) in acetone and stir at room temperature. After 10 minutes, add iodoethane (1.82 g, 11.67 mmol) with stirring. After 18 hours, add water and extract with ethyl acetate. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound.

reactant | potassium carbonate | 15.92 mmol, 2.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromobenzenethiol | 10.58 mmol, 2.00 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | iodoethane | 11.67 mmol, 1.82 g | ICC | C2H5I
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-bromo-2-ethylsulfanyl-benzene | BrC1=C(C=CC=C1)SCC | C8H9BrS
